US08017611B2
5-bromo-3-oxazolo[4,5-b]pyridin-2-yl-pyridin-2-amine (50 mg), potassium acetate (52.3 mg), 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II)-dichloromethane adduct (6.94 mg) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (48.0 mg) were suspended in dioxane (800 μL) and degassed several times with argon. Argon stream was bubbled in the suspension at 25° C. for 15 minutes. The resulting suspension was sealed and stirred at 80° C. overnight. The reaction mixture was diluted with chloroform (800 μL) and filtered. The residue was taken up into ethyl acetate (3 ml), collected by filtration to give 3-oxazolo[4,5-b]pyridin-2-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (37.0 mg). NMR Spectrum: (CDCl3) 1.31 (s, 12H), 5.97 (bs, 2H), 7.24 (dd, 1H), 7.70 (dd, 1H), 8.49 (dd, 1H), 8.55 (d, 1H), 8.65 (d, 1H); Mass spectrum: M+H+ 339

reactant | 5-bromo-3-oxazolo[4,5-b]pyridin-2-yl-pyridin-2-amine | 50 mg | BrC=1C=C(C(=NC1)N)C=1OC=2C(=NC=CC2)N1 | C11H7BrN4O
reactant | potassium acetate | 52.3 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 48.0 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 800 μL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) dichloromethane | 6.94 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 3-oxazolo[4,5-b]pyridin-2-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 37.0 mg | O1C(=NC2=NC=CC=C21)C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N | C17H19BN4O3
